US07855298B2
Ethyl-2-chloroacetoacetate (1 wt; 1 eq., 1000 g) was aged with formamide (0.68 vol; ca. 2.8 eq.) and the resulting solution was heated to 120° C. After 5 hours the mixture was allowed to cool to room temperature and allowed to age under nitrogen over night. The mixture was treated with NaOH (3 M, 6 vol, reaction moderately exothermic) and stirred at room temperature for 4 hours. Ethyl acetate (6 vol) was added and the phases allowed to separate. The organic layer was discarded while the aqueous was acidified with conc. (32%) aqueous HCl to pH 2 (ca. 2.0 vol). A precipitate started to form. The suspension was treated with AcOEt (8 vol) and vigorously stirred until the bulk of the precipitate had dissolved. The aqueous phase was further extracted with AcOEt twice (6 vol each) and the combined organic layers distilled to low volume (again a suspension was observed at low volume). Fresh AcOEt (8 vol) was added and the mixture evaporated to dryness. The collected solid was placed in the oven at 40° C. over night under reduced pressure to give 4-methyl-1,3-oxazole-5-carboxylic acid (498 g, 64.5%).

reactant | Ethyl-2-chloroacetoacetate | 1000 g, 1 eq. | C(C)OC(C(C(=O)C)Cl)=O | C6H9ClO3
reactant | formamide | ca. 2.8 eq. | C(=O)N | CH3NO
reactant | NaOH | [OH-].[Na+]
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methyl-1,3-oxazole-5-carboxylic acid | 498 g, 64.5% | CC=1N=COC1C(=O)O | C5H5NO3
